US07186742B2
2-Chloro-5-[1-(3-fluoro-2-hydroxy-propyl)-1H-imidazol-4-yl]-N-(1-hydroxy-cycloheptylmethyl)-benzamide
A solution of 2-chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(1H-imidazol-4-yl)-benzamide(5 mg, 0.014 mmol) and 2-fluoromethyl-oxirane (0.06 mL, 0.086 mmol) in N,N-dimethylformamide (0.2 mL) was heated at 65° C. in a sealed tube for 20 h. The mixture was diluted with ethyl acetate and washed with water, and brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound (5.2 mg).

reactant | 2-chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(1H-imidazol-4-yl)-benzamide | 0.014 mmol, 5 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C=1N=CNC1 | C18H22ClN3O2
reactant | 2-fluoromethyl-oxirane | 0.086 mmol, 0.06 mL | FCC1OC1 | C3H5FO
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-5-[1-(3-fluoro-2-hydroxy-propyl)-1H-imidazol-4-yl]-N-(1-hydroxy-cycloheptylmethyl)-benzamide | 5.2 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C=1N=CN(C1)CC(CF)O | C21H27ClFN3O3
